US05952462
Preparation of 2,2-Difluoro-4-pentenoic acid (II)
A 250 ml, three-necked flask equipped with a magnetic stir bar, a low-temperature thermometer, a condenser filled with dry ice/acetone, and a balloon is charged with dry THF (100 ml). The flask is cooled to approximately -50° C. and tetrafluoroethylene is passed through a tube of silica and then through a needle into the THF until saturation is reached (as judged by inflation of the balloon). The flask is allowed to warm to -5 to -10° C. which causes the balloon to inflate slightly (most of the gas will be trapped by the condenser). To a separate 50 ml. flask is added NaH (100 mg, 4.2 mmol, 80% suspension in oil), and the oil is removed by repeated washing with dry THF under argon. A solution of previously distilled allyl alcohol (3.0 g 52 mmol) in dry THF (2 ml) is slowly added by syringe with stirring and the mixture is allowed to stir for an additional 10 min. This solution is then transferred dropwise by syringe to the three-necked flask with stirring at -5 to -10° C. After approximately 3 hr, the reaction is checked by GC (60° C.) of a small aliquot and, if needed, additional tetrafluoroethylene is bubbled into the solution for about 5 min. The product elutes just after the allyl alcohol. Further additions of tetrafluoroethylene are usually required. The addition reaction usually requires 6 hr. The reaction is then placed under argon, cooled to -60° C. and n-butyllithium (one equivalent in hexane) is added dropwise over 2 hr. from an addition funnel while the temperature is kept constant at -60° C. The mixture is cooled to -78° C., water (2 ml) is added, the cooling bath is removed and the solution is stirred overnight. The solution is basified with aqueous NaOH and the solvent removed in vacuo. The residue is acidified with 1N HCl and extracted three times with ether. The organic layers are combined and extracted with saturated NaHCO3. The aqueous extract is acidified to pH 1 with HCl and extracted three times with ether. The presence of the difluoro acid is confirmed by NMR of a small aliquot.

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | tetrafluoroethylene | FC(=C(F)F)F | C2F4
reactant | NaH | 4.2 mmol, 100 mg | [H-].[Na+]
reactant | allyl alcohol | 52 mmol, 3.0 g | C(C=C)O | C3H6O
reactant | n-butyllithium | one equivalent | C(CCC)[Li]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 2,2-Difluoro-4-pentenoic acid | FC(C(=O)O)(CC=C)F | C5H6F2O2
